US05510511
With respect to butyl N,O-dimethylcarbamate, a process disclosed in the specification of West German Patent Application Laid-open No. 3,245,503 is known. This process comprises reacting sulfate of hydroxylamine as a starting material with butyl chloroformate in the presence of sodium hydroxide, extracting the reaction product with dichloromethane, drying the extract, distilling the solvent away from the dried extract to obtain butyl hydroxycarbamate and dimethylating this product using dimethyl sulfate and a sodium hydroxide solution to obtain ethyl N,O-dimethylhydroxycarbamate in the total yield of 65%.

reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | hydroxylamine | NO | H3NO
reactant | butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
reactant | sodium hydroxide | [OH-].[Na+]
product | butyl hydroxycarbamate | ONC(OCCCC)=O | C5H11NO3
